US05565185
To a stirred solution of 3-iodobenzylamine hydrochloride dissolved in distilled water (13.2 mL per gram) is added dropwise an aqueous ammonium hydroxide (5.3 mL per gram) solution. A yellow oil separates and is extracted into ethyl acetate (3×6.6 mL per gram). The ethyl acetate layer is dried over anhydrous sodium sulfate and evaporated on a rotovap to obtain 3-iodobenzylamine as a yellow oil (94% yield).

reactant | 3-iodobenzylamine hydrochloride | Cl.IC=1C=C(CN)C=CC1
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 3-iodobenzylamine | 94% yield | IC=1C=C(CN)C=CC1 | C7H8IN
